* Subcircuit CD54_157
.subckt CD54_157 /s /i0_1 /i1_1 /y1_bar /i0_2 /i1_2 /y2_bar net-_m10-pad3_ /y4_bar /i1_4 /i0_4 /y3_bar /i1_3 /i0_3 /enable_bar /vcc 
* c:\fossee\esim\library\subcircuitlibrary\cd54_157\cd54_157.cir
.include PMOS-180nm.lib
.include NMOS-180nm.lib
m55 net-_m55-pad1_ /i0_3 /vcc /vcc CMOSP W=100u L=100u M=1
m60 net-_m55-pad1_ net-_m58-pad2_ /vcc /vcc CMOSP W=100u L=100u M=1
m65 net-_m55-pad1_ net-_m57-pad2_ /vcc /vcc CMOSP W=100u L=100u M=1
m56 /y3_bar /i1_3 net-_m55-pad1_ net-_m55-pad1_ CMOSP W=100u L=100u M=1
m61 /y3_bar net-_m58-pad2_ net-_m55-pad1_ net-_m55-pad1_ CMOSP W=100u L=100u M=1
m66 /y3_bar /s net-_m55-pad1_ net-_m55-pad1_ CMOSP W=100u L=100u M=1
m57 /y3_bar net-_m57-pad2_ net-_m57-pad3_ net-_m57-pad3_ CMOSN W=100u L=100u M=1
m58 net-_m57-pad3_ net-_m58-pad2_ net-_m58-pad3_ net-_m58-pad3_ CMOSN W=100u L=100u M=1
m59 net-_m58-pad3_ /i0_3 net-_m10-pad3_ net-_m10-pad3_ CMOSN W=100u L=100u M=1
m62 /y3_bar /s net-_m62-pad3_ net-_m62-pad3_ CMOSN W=100u L=100u M=1
m63 net-_m62-pad3_ net-_m58-pad2_ net-_m63-pad3_ net-_m63-pad3_ CMOSN W=100u L=100u M=1
m64 net-_m63-pad3_ /i1_3 net-_m10-pad3_ net-_m10-pad3_ CMOSN W=100u L=100u M=1
m68 net-_m57-pad2_ /s net-_m10-pad3_ net-_m10-pad3_ CMOSN W=100u L=100u M=1
m67 net-_m57-pad2_ /s /vcc /vcc CMOSP W=100u L=100u M=1
m71 net-_m58-pad2_ /enable_bar /vcc /vcc CMOSP W=100u L=100u M=1
m72 net-_m58-pad2_ /enable_bar net-_m10-pad3_ net-_m10-pad3_ CMOSN W=100u L=100u M=1
m1 net-_m1-pad1_ /i0_1 /vcc /vcc CMOSP W=100u L=100u M=1
m11 net-_m1-pad1_ net-_m11-pad2_ /vcc /vcc CMOSP W=100u L=100u M=1
m18 net-_m1-pad1_ net-_m18-pad2_ /vcc /vcc CMOSP W=100u L=100u M=1
m2 /y1_bar /i1_1 net-_m1-pad1_ net-_m1-pad1_ CMOSP W=100u L=100u M=1
m12 /y1_bar net-_m11-pad2_ net-_m1-pad1_ net-_m1-pad1_ CMOSP W=100u L=100u M=1
m19 /y1_bar /s net-_m1-pad1_ net-_m1-pad1_ CMOSP W=100u L=100u M=1
m3 /y1_bar net-_m18-pad2_ net-_m3-pad3_ net-_m3-pad3_ CMOSN W=100u L=100u M=1
m4 net-_m3-pad3_ net-_m11-pad2_ net-_m4-pad3_ net-_m4-pad3_ CMOSN W=100u L=100u M=1
m5 net-_m4-pad3_ /i0_1 net-_m10-pad3_ net-_m10-pad3_ CMOSN W=100u L=100u M=1
m15 /y1_bar /s net-_m15-pad3_ net-_m15-pad3_ CMOSN W=100u L=100u M=1
m16 net-_m15-pad3_ net-_m11-pad2_ net-_m16-pad3_ net-_m16-pad3_ CMOSN W=100u L=100u M=1
m17 net-_m16-pad3_ /i1_1 net-_m10-pad3_ net-_m10-pad3_ CMOSN W=100u L=100u M=1
m26 net-_m18-pad2_ /s net-_m10-pad3_ net-_m10-pad3_ CMOSN W=100u L=100u M=1
m25 net-_m18-pad2_ /s /vcc /vcc CMOSP W=100u L=100u M=1
m33 net-_m11-pad2_ /enable_bar /vcc /vcc CMOSP W=100u L=100u M=1
m34 net-_m11-pad2_ /enable_bar net-_m10-pad3_ net-_m10-pad3_ CMOSN W=100u L=100u M=1
m6 net-_m13-pad1_ /i0_2 /vcc /vcc CMOSP W=100u L=100u M=1
m13 net-_m13-pad1_ net-_m13-pad2_ /vcc /vcc CMOSP W=100u L=100u M=1
m23 net-_m13-pad1_ net-_m23-pad2_ /vcc /vcc CMOSP W=100u L=100u M=1
m7 /y2_bar /i1_2 net-_m13-pad1_ net-_m13-pad1_ CMOSP W=100u L=100u M=1
m14 /y2_bar net-_m13-pad2_ net-_m13-pad1_ net-_m13-pad1_ CMOSP W=100u L=100u M=1
m24 /y2_bar /s net-_m13-pad1_ net-_m13-pad1_ CMOSP W=100u L=100u M=1
m8 /y2_bar net-_m23-pad2_ net-_m8-pad3_ net-_m8-pad3_ CMOSN W=100u L=100u M=1
m9 net-_m8-pad3_ net-_m13-pad2_ net-_m10-pad1_ net-_m10-pad1_ CMOSN W=100u L=100u M=1
m10 net-_m10-pad1_ /i0_2 net-_m10-pad3_ net-_m10-pad3_ CMOSN W=100u L=100u M=1
m20 /y2_bar /s net-_m20-pad3_ net-_m20-pad3_ CMOSN W=100u L=100u M=1
m21 net-_m20-pad3_ net-_m13-pad2_ net-_m21-pad3_ net-_m21-pad3_ CMOSN W=100u L=100u M=1
m22 net-_m21-pad3_ /i1_2 net-_m10-pad3_ net-_m10-pad3_ CMOSN W=100u L=100u M=1
m30 net-_m23-pad2_ /s net-_m10-pad3_ net-_m10-pad3_ CMOSN W=100u L=100u M=1
m29 net-_m23-pad2_ /s /vcc /vcc CMOSP W=100u L=100u M=1
m35 net-_m13-pad2_ /enable_bar /vcc /vcc CMOSP W=100u L=100u M=1
m36 net-_m13-pad2_ /enable_bar net-_m10-pad3_ net-_m10-pad3_ CMOSN W=100u L=100u M=1
m37 net-_m37-pad1_ /i0_4 /vcc /vcc CMOSP W=100u L=100u M=1
m42 net-_m37-pad1_ net-_m40-pad2_ /vcc /vcc CMOSP W=100u L=100u M=1
m47 net-_m37-pad1_ net-_m39-pad2_ /vcc /vcc CMOSP W=100u L=100u M=1
m38 /y4_bar /i1_4 net-_m37-pad1_ net-_m37-pad1_ CMOSP W=100u L=100u M=1
m43 /y4_bar net-_m40-pad2_ net-_m37-pad1_ net-_m37-pad1_ CMOSP W=100u L=100u M=1
m48 /y4_bar /s net-_m37-pad1_ net-_m37-pad1_ CMOSP W=100u L=100u M=1
m39 /y4_bar net-_m39-pad2_ net-_m39-pad3_ net-_m39-pad3_ CMOSN W=100u L=100u M=1
m40 net-_m39-pad3_ net-_m40-pad2_ net-_m40-pad3_ net-_m40-pad3_ CMOSN W=100u L=100u M=1
m41 net-_m40-pad3_ /i0_4 net-_m10-pad3_ net-_m10-pad3_ CMOSN W=100u L=100u M=1
m44 /y4_bar /s net-_m44-pad3_ net-_m44-pad3_ CMOSN W=100u L=100u M=1
m45 net-_m44-pad3_ net-_m40-pad2_ net-_m45-pad3_ net-_m45-pad3_ CMOSN W=100u L=100u M=1
m46 net-_m45-pad3_ /i1_4 net-_m10-pad3_ net-_m10-pad3_ CMOSN W=100u L=100u M=1
m50 net-_m39-pad2_ /s net-_m10-pad3_ net-_m10-pad3_ CMOSN W=100u L=100u M=1
m49 net-_m39-pad2_ /s /vcc /vcc CMOSP W=100u L=100u M=1
m53 net-_m40-pad2_ /enable_bar /vcc /vcc CMOSP W=100u L=100u M=1
m54 net-_m40-pad2_ /enable_bar net-_m10-pad3_ net-_m10-pad3_ CMOSN W=100u L=100u M=1
* Control Statements

.ends CD54_157